US05534179
Preparation of N-[2-((Phenoxycarbonyl)oxy)ethyl]-N-((phenoxycarbonyl)methyl)-N,N-dimethyl-ammonium Chloride (10)
To a 250 ml three-necked round-bottomed flask fitted with a reflux condenser, magnetic stirrer, internal thermometer, addition funnel, and argon inlet are added N-[2-((phenoxycarbonyl)oxy)ethyl]-N,N-dimethylamine (25.00 g, 0.120 mol), acetonitrile (100 ml), and phenyl chloroacetate (20.38 g, 0.120 mol) over 5 min. After addition is complete, the mixture is heated to reflux for 3 h. The cooled mixture is triturated with ether (500 ml). A white solid, 23.15 g (51%) is isolated to give 9.

reactant | N-[2-((phenoxycarbonyl)oxy)ethyl]-N,N-dimethylamine | 0.120 mol, 25.00 g | O(C1=CC=CC=C1)C(=O)OCCN(C)C | C11H15NO3
reactant | phenyl chloroacetate | 0.120 mol, 20.38 g | ClCC(=O)OC1=CC=CC=C1 | C8H7ClO2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N-[2-((Phenoxycarbonyl)oxy)ethyl]-N-((phenoxycarbonyl)methyl)-N,N-dimethyl-ammonium Chloride | [Cl-].O(C1=CC=CC=C1)C(=O)OCC[N+](C)(C)CC(=O)OC1=CC=CC=C1 | InChI=1S/C19H22NO5.ClH/c1-20(2,15-18(21)24-16-9-5-3-6-10-16)13-14-23-19(22)25-17-11-7-4-8-12-17;/h3-12H,13-15H2,1-2H3;1H/q+1;/p-1
